US06063806
1-Octyl-6-carbamoylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline (2.5 g) was dissolved in n-propanol (50 ml) and a solution of NaOH (3.0 g) in water (30 ml) was added, which was followed by stirring at 130° C. for 20 hr under nitrogen. The organic layer of the reaction mixture was separated and the solvent was evaporated under reduced pressure. The residue was dissolved in water (300 ml) and washed with ethyl acetate (100 ml). The aqueous layer was adjusted to pH 1-2 with 6N hydrochloric acid and extracted with chloroform (200 ml). The chloroform layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The obtained 1-octyl-6-carboxymethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline was dissolved in ethanol (50 ml), and conc. hydrochloric acid (4 ml) was added, which was followed by stirring at 70° C. for 1 hr. The solvent was evaporated under reduced pressure. The residue was neutralized with saturated aqueous solution of sodium hydrogencarbonate and extracted with chloroform (100 ml). After washing with water, the chloroform layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: benzene) to give 1.0 g of oily 1-octyl-6-ethoxycarbonylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline.

reactant | 1-Octyl-6-carbamoylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline | 2.5 g | C(CCCCCCC)N1CCCC2=C(C(=C(C=C12)C)CC(N)=O)C | C21H34N2O
reactant | NaOH | 3.0 g | [OH-].[Na+]
reactant | n-propanol | 50 ml | C(CC)O | C3H8O
solvent | water | 30 ml | O | H2O
product | 1-octyl-6-ethoxycarbonylmethyl-5,7-dimethyl-1,2,3,4-tetrahydroquinoline | 1.0 g | C(CCCCCCC)N1CCCC2=C(C(=C(C=C12)C)CC(=O)OCC)C | C23H37NO2
